US06727249B2
A suspension of 3-hydroxy-2-phenylpyridine (15 g, 116 mmol) in toluene (250 ml) was heated at reflux for 30 minutes. Allyl bromide (30 ml) was added and the reaction mixture was heated at reflux for 20 hours and cooled using the ice bath. Solid was filtered off and washed twice with ether to afford crude 3-hydroxy-2-phenyl-N-(prop-2-enyl)-pyridinium bromide, which was used treated with acrylonitrile (100 ml), triethylamine (15 ml) and 1,4-dioxane (200 ml) was heated at reflux for 28 hours and cooled to room temperature. The reaction mixture was poured onto saturated aqueous NaHCO3 and extracted with ethyl acetate. The combined organic extracts were dried (Na2SO4) and concentrated to give a crude mixture of regio and stereoisomers in ratio (6R*):(6S*):(7R*):(7S*)=7:8:1:5. Isomers were separated by chromatography on silica gel (iso-hexane:ethyl acetate).

reactant | 3-hydroxy-2-phenylpyridine | 116 mmol, 15 g | OC=1C(=NC=CC1)C1=CC=CC=C1 | C11H9NO
reactant | Allyl bromide | 30 ml | C(C=C)Br | C3H5Br
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxy-2-phenyl-N-(prop-2-enyl)-pyridinium bromide | [Br-].OC=1C(=[N+](C=CC1)CC=C)C1=CC=CC=C1 | InChI=1S/C14H13NO.BrH/c1-2-10-15-11-6-9-13(16)14(15)12-7-4-3-5-8-12;/h2-9,11H,1,10H2;1H
